US05684151
1-(4-Aminobenzenesulfonyl)-3-(4-chlorophenyl)-1,4,5,6-tetrahydropyridazine (Compound 153)
(4-Chlorophenyl)-1-(4-nitrobenzenesulfonyl)-1,4,5,6-tetrahydropyridazine (2.12 g, 5.60 mmol) was suspended in acetic acid at 80° C. Iron filings (3.0 g) were added to this suspension and the resulting reaction mixture was heated at 80° C. for 30 minutes and filtered. Upon cooling the title compound precipitated out of this mixture as a solid: mp 205°-206° C.

reactant | (4-Chlorophenyl)-1-(4-nitrobenzenesulfonyl)-1,4,5,6-tetrahydropyridazine | 5.60 mmol, 2.12 g | ClC1=CC=C(C=C1)C1=NN(CCC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14ClN3O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Iron | [Fe] | Fe
product | 1-(4-Aminobenzenesulfonyl)-3-(4-chlorophenyl)-1,4,5,6-tetrahydropyridazine | NC1=CC=C(C=C1)S(=O)(=O)N1N=C(CCC1)C1=CC=C(C=C1)Cl | C16H16ClN3O2S
